US09034866B2
Synthesis of 3-fluoro-2-iodo-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one
To a rapidly stirred solution of crude of 3-fluoro-2-(trimethylstannyl)-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one (3.09 g at 37% purity LCMS-UV215) in chloroform (20 mL) at room temperature was introduced dropwise a solution of iodine (1.488 g, 5.86 mmol, 1.0 equivalent with respect to number of moles 5-bromo-4-fluorotricyclo[8.1.1.02,7]dodeca-2(7),3,5-trien-9-one used for stannane synthesis in previous synthetic step, as a saturated solution in chloroform). Following addition of the iodine solution, the reaction mixture was evaporated directly onto silica gel in vacuo. The dry-loaded material was purified by silica gel flash column chromatography (eluent: heptane/ethyl acetate gradient) to furnish the title compound (0.835 g, 2.64 mmol, 45% over 2 steps) as a yellow oil: 1H NMR (500 MHz, CDCl3) δ 2.08-2.14 (m, 2H), 2.87-2.96 (m, 2H), 3.22-3.28 (m, 1H), 3.48 (td, J=8.28, 3.63 Hz, 1H), 4.11 (s, 2H), 6.78 (d, J=8.51 Hz, 1H), 7.53 (d, J=6.31 Hz, 1H); M+H=317

reactant | 3-fluoro-2-(trimethylstannyl)-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one | 3.09 g | FC1=CC2=C(CC(C3CC2C3)=O)C=C1[Sn](C)(C)C
reactant | iodine | II | I2
reactant | 5-bromo-4-fluorotricyclo[8.1.1.02,7]dodeca-2(7),3,5-trien-9-one | BrC=1C(=CC=2C3CC(C(CC2C1)=O)C3)F | C12H10BrFO
reactant | stannane | [SnH4]
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-2-iodo-6,7-dihydro-5H-5,7-methanobenzo[7]annulen-8(9H)-one | 2.64 mmol, 0.835 g, 45% | FC1=CC2=C(CC(C3CC2C3)=O)C=C1I | C12H10FIO
